US04097464
2,6-bis(1,1-dimethylbutyl)-4-vinylphenol
A solution of 91.8 grams of 2,6-bis(1,1-dimethylbutyl)-4-(α-hydroxyethyl)phenol in 400 milliliters of hexane was stirred vigorously with 400 milliliters of concentrated HCl for 1 hour. The hexane layer was separated and the hexane was removed by distillation under aspirator vacuum. The residual 2,6-bis(1,1-dimethylbutyl)-4-(α-chloroethyl) phenol was dissolved in 150 milliliters of pyridine and the solution was heated under reflux for 1 hour. Pyridine was removed by distillation under aspirator vacuum. The residue was washed with water, then dried in a vacuum oven. The product, a viscous yellow liquid, weighed 26 grams.

reactant | 2,6-bis(1,1-dimethylbutyl)-4-(α-hydroxyethyl)phenol | 91.8 grams | CC(CCC)(C)C1=C(C(=CC(=C1)C(C)O)C(CCC)(C)C)O | C20H34O2
reactant | HCl | 400 milliliters | Cl | ClH
solvent | hexane | 400 milliliters | CCCCCC | C6H14
product | 2,6-bis(1,1-dimethylbutyl)-4-vinylphenol | CC(CCC)(C)C1=C(C(=CC(=C1)C=C)C(CCC)(C)C)O | C20H32O
